### PR TITLE
feat: limit the use of Classical.choice

### PR DESCRIPTION
**Pull request by riccardobrasca**
An experiment to have a lean toolchain that limit the use of the axiom of choice in basic results.

### CODE REVIEW

**Comment by kim-em** [comment]
Please remember to close this once it rots.

File: src/Init/LawfulBEqTactics.lean [hunk 1]
```diff
@@ -49,12 +49,7 @@ theorem deriving_lawful_beq_helper_nd {x y : α} [BEq α] [ReflBEq α]
     {P : Prop}
     (inst : (x == y) = true → x = y)
     (k : x = y → P) :
-    (x == y) = true → P := by
-  intro h
-  by_cases hxy : x = y
-  · subst hxy
-    apply k rfl
-  · exact False.elim <| hxy (inst h)
+    (x == y) = true → P := fun h ↦ k (inst h)
```
Comment (eric-wieser) [inline src/Init/LawfulBEqTactics.lean:52]: This golf looks worth upstreaming :)
